US08012966B2
(S)—N-{3-[5-(2-Diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-propionamide
The title compound was prepared under the same conditions as described in Example 1 with 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and (S)—N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-propionamide as starting materials to give (S)—N-{3-[5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-yl methylene]-5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-propionamide (37 mg, 50.3%) as an orange solid.

reactant | 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC | C15H23N3O2
reactant | (S)—N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-propionamide | FC=1C=C2CC(NC2=CC1NC([C@H](C)O)=O)=O | C11H11FN2O3
product | (S)—N-{3-[5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-yl methylene]-5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-hydroxy-propionamide | 37 mg, 50.3% | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(NC1=CC(=C(C=C21)F)NC([C@H](C)O)=O)=O)=O)CC | C26H32FN5O4
